US05641883
(ii) Preparation of 8-t-butyl-3-aminomethyl-3-hydroxy-1-oxaspiro(4,5)decane
8-t-Butyl-3-hydroxy-3-cyano-1-oxaspiro(4,5)decane (2.37 g, 10 mmol) in methanol (25 ml), containing conc. hydrochloric acid (1 ml), was hydrogenated on platinum oxide (0.1 g, 40° C./5 bar hydrogen pressure) until the uptake of hydrogen ceased. Saturated NaHCO3 (3 ml) was added and the solvent was evaporated in vacuo. To the residue was added methanol (30 ml) and MgSO4. The mixture was filtrated and the filtrate was evaporated in vacuo to yield a pale greenish solid (2.0 g). The fairly polar compound was not further purified. It was characterised via its N-cyclohexyl derivative.

reactant | 8-t-Butyl-3-hydroxy-3-cyano-1-oxaspiro(4,5)decane | 10 mmol, 2.37 g | C(C)(C)(C)C1CCC2(CC(CO2)(C#N)O)CC1 | C14H23NO2
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 8-t-butyl-3-aminomethyl-3-hydroxy-1-oxaspiro(4,5)decane | 2.0 g | C(C)(C)(C)C1CCC2(CC(CO2)(O)CN)CC1 | C14H27NO2
